US04111945
10 ml. of ICH3 are slowly added to a solution of 10 g. of 3,4,5-trimethoxyphenyl-(4-methyl-2-pyridyl) carbinol in 125 ml. of anhydrous acetone and 15 ml. of anhydrous benzene. The resulting mixture is agitated for 1 hour at room temperature, then refluxed for 2 hours, then left to cool, 13.04 g being obtained, with an 87% yield, of a crystalline precipitate identifiable as 3,4,5-trimethoxyphenyl-(1,4-dimethyl-2-pyridinyl)-carbinol iodide. A sample recrystallized from ethanol has a melting point of 162°-163.5° C.

reactant | ICH3 | IC | CH3I
reactant | 3,4,5-trimethoxyphenyl-(4-methyl-2-pyridyl) carbinol | COC=1C=C(C=C(C1OC)OC)C(O)C1=NC=CC(=C1)C | C16H19NO4
reactant | acetone | CC(=O)C | C3H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4,5-trimethoxyphenyl-(1,4-dimethyl-2-pyridinyl)-carbinol iodide | 87% yield | [I-].COC=1C=C(C=C(C1OC)OC)C(O)C1N(C=CC(=C1)C)C | InChI=1S/C17H23NO4.HI/c1-11-6-7-18(2)13(8-11)16(19)12-9-14(20-3)17(22-5)15(10-12)21-4;/h6-10,13,16,19H,1-5H3;1H/p-1
